US07745641B2
4-Chloro-5-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (100 mg, 0.159 mmol) was dissolved in 1,4-dioxane (3.0 mL), and the solution was added with 2-(tributylstannyl)furan (0.150 mL, 0.477 mmol), tetrakis(triphenylphosphine)palladium (15.0 mg, 0.0130 mmol) and lithium chloride (60.6 mg, 1.43 mmol), followed by stirring at 90° C. for 6.0 hours under argon atmosphere. The reaction mixture was added with 10% aqueous ammonium fluoride solution and filtered using Celite. The filtrate was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by preparative thin-layer chromatography (chloroform/methanol=6/1) to obtain 4-chloro-5-(2-furyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (52.2 mg, yield 60%).

reactant | 4-Chloro-5-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 0.159 mmol, 100 mg | ClC1=C2CNC(C2=C(C=C1OS(=O)(=O)C(F)(F)F)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C28H29ClF3N3O6S
reactant | 2-(tributylstannyl)furan | 0.477 mmol, 0.150 mL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
reactant | lithium chloride | 1.43 mmol, 60.6 mg | [Cl-].[Li+]
reactant | ammonium fluoride | [F-].[NH4+]
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.0130 mmol, 15.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-5-(2-furyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 52.2 mg, yield 60% | ClC1=C2CNC(C2=C(C=C1C=1OC=CC1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C31H32ClN3O4
